US09303023B2
3-(2-Bromo-ethyl)-1-methyl-1H-indole
A flask was charged with NaH (900 mg, 37.52 mmol), MeI (3.14 mL, 50.00 mmol) and THF (7.5 mL). The resulting grey suspension was stirred at rt for 5 min, then a solution of 3-(2-bromethyl)-indol (1.12 g, 5.00 mmol) in THF (25 mL) was added dropwise. After stirring for 18 h at rt, the reaction mixture was concentrated, redissolved in DCM and washed with H2O (3×). The org. layer was dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield the title compound as an yellow oil which was used as such in the next step. LC-MS conditions A: tR=0.95 min, [M+H]+=no ionization.

reactant | NaH | 37.52 mmol, 900 mg | [H-].[Na+]
reactant | MeI | 50.00 mmol, 3.14 mL | CI | CH3I
reactant | 3-(2-bromethyl)-indol | 5.00 mmol, 1.12 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | 3-(2-Bromo-ethyl)-1-methyl-1H-indole | BrCCC1=CN(C2=CC=CC=C12)C | C11H12BrN
